US08871753B2
N-[6-Chloro-2,4,8,22-tetraazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20), 3(22),4,6,9(21),10,12,16,18-nonaen-12-yl]cyclobutanecarboxamide hydrochloride
The desired compound was prepared according to the procedure of Example B26, using 6-chloro-2,4,8,22-tetraazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaen-12-amine dihydrochloride and cyclobutanecarboxylic acid chloride as the starting materials in 40% yield. LCMS for C23H23ClN5O (M+H)+: m/z=420.3.

reactant | 6-chloro-2,4,8,22-tetraazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaen-12-amine dihydrochloride | Cl.Cl.ClC=1C=NC=2NC=3C=CC=C(CCC4=C(C=CC(NC1N2)=C4)N)C3
reactant | cyclobutanecarboxylic acid chloride | C1(CCC1)C(=O)Cl | C5H7ClO
product | N-[6-Chloro-2,4,8,22-tetraazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20), 3(22),4,6,9(21),10,12,16,18-nonaen-12-yl]cyclobutanecarboxamide hydrochloride | 40% yield | Cl.ClC=1C=NC=2NC=3C=CC=C(CCC4=C(C=CC(NC1N2)=C4)NC(=O)C4CCC4)C3 | InChI=1S/C23H22ClN5O.ClH/c24-19-13-25-23-27-17-6-1-3-14(11-17)7-8-16-12-18(26-21(19)29-23)9-10-20(16)28-22(30)15-4-2-5-15;/h1,3,6,9-13,15H,2,4-5,7-8H2,(H,28,30)(H2,25,26,27,29);1H
